US07618961B2
Ethyl [2-({[4-(acetylamino)phenyl]sulfonyl}amino)-1,3-thiazol-4-yl]acetate
The title compound was prepared from ethyl 2-amino-4-thiazolylacetate and 4-acetamidobenzenesulfonyl chloride as described in the synthetic METHOD B to give a white solid (5.6 mg) with purity >90%. LCMS (pos) m/z 384.2.

reactant | ethyl 2-amino-4-thiazolylacetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | 4-acetamidobenzenesulfonyl chloride | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)Cl | C8H8ClNO3S
product | Ethyl [2-({[4-(acetylamino)phenyl]sulfonyl}amino)-1,3-thiazol-4-yl]acetate | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)NC=1SC=C(N1)CC(=O)OCC | C15H17N3O5S2
